US07402608B2
To a solution of 3-Bromo-5-phenyl-thiophene-2-carboxylic acid methyl ester (0.500 g, 1.68 mmol) in toluene (10 ml) was added N,N-Dimethyl-hydrazine (0.121 g, 2.02 mmol), cesium carbonate (0.767 g, 2.36 mmol), BINAP (0.106 g, 0.17 mmol) and paladium(II) acetate (0.019 g, 0.08 mmol). The reaction mixture was stirred for 16 h at 110° C. The mixture was partitioned between toluene (20 mL) and water (20 mL) and the organic layer was separated. The aqueous phase was washed twice with toluene (2×10 mL) and the combined toluenelayer was dried (MgSO4), concentrated and the residue was purified by preparative tlc (10% EtOAc/Hexane) to obtain 0.350 g (75%) of 3-(N′,N′-Dimethyl-hydrazino)-5-phenyl-thiophene-2-carboxylic acid methyl ester. NMR 1H (CDCl3, 400 MHz): δ 7.71(d, 2H), 7.40 (m, 3H), 7.13 (s, 1H), 3.87 (s, 3H), 2.65 (s, 6H).

reactant | 3-Bromo-5-phenyl-thiophene-2-carboxylic acid methyl ester | 1.68 mmol, 0.500 g | COC(=O)C=1SC(=CC1Br)C1=CC=CC=C1 | C12H9BrO2S
reactant | N,N-Dimethyl-hydrazine | 2.02 mmol, 0.121 g | CN(N)C | C2H8N2
reactant | cesium carbonate | 2.36 mmol, 0.767 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.17 mmol, 0.106 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | acetate | 0.08 mmol, 0.019 g | C(C)(=O)[O-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(N′,N′-Dimethyl-hydrazino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.350 g, 75% | COC(=O)C=1SC(=CC1NN(C)C)C1=CC=CC=C1 | C14H16N2O2S
